US05098921
A mixture containing 1-(2-nitro-1-imidazolyl)-3-(2-hydroxyethylamino)-2-propanol (RSU-1137) prepared as described by Silver et al. [Silver, A.R.J., McNeil, S.S., O'Neill, P., Jenkins, T.C. and Ahmed, I., Biochemical Pharmacology 1986 35 3923-3928] (2.30 g, 10.0 mmol) and dimethylbromo-sulphonium bromide (2.22 g, 10.0 mmol) prepared by the method of Furukawa et al. [Furukawa, N., Inoue, T., Aida, T. and Oae, S., J. Chem. Soc. Chem. Commun. 1973 212] in N,N-dimethylformamide (20 cm3) was stirred at 50° C. for 12 hours. The reaction mixture was concentrated in vacuo, digested in ethanol (10 cm3) and separated by preparative column chromatography using silica gel as the stationary phase and chloroform-methanol (9:1 v/v) as eluant. 1-(2-Nitro-1-imidazolyl)-3-(2-bromoethylamino)-2-propanol hydrobromide (0.68 g, 18.2%) was obtained as a yellow solid, m.p. 148.5°-150.5° C. after treatment of the eluate with ethereal hydrogen bromide.

reactant | 1-(2-nitro-1-imidazolyl)-3-(2-hydroxyethylamino)-2-propanol | [N+](=O)([O-])C=1N(C=CN1)CC(CNCCO)O | C8H14N4O4
reactant | dimethylbromo-sulphonium bromide | 10.0 mmol, 2.22 g | [Br-].C[S+](Br)C
solvent | N,N-dimethylformamide | 20 cm3 | CN(C=O)C | C3H7NO
catalyst | Silver | [Ag] | Ag
product | 1-(2-Nitro-1-imidazolyl)-3-(2-bromoethylamino)-2-propanol hydrobromide | 0.68 g, 18.2% | Br.[N+](=O)([O-])C=1N(C=CN1)CC(CNCCBr)O | InChI=1S/C8H13BrN4O3.BrH/c9-1-2-10-5-7(14)6-12-4-3-11-8(12)13(15)16;/h3-4,7,10,14H,1-2,5-6H2;1H
